US08293912B2
(1R)-1-[(3,4-dimethoxyphenyl)methyl]-1,2,3,4-tetrahydro-6,7-dimethoxy-2-tert-butoxycarbonylethylisoquinoline oxalate (7.0 g, 0.0125 moles), prepared as described in example 1, was dissolved in water (50 ml) and 25% aqueous ammonium hydroxide solution was added to produce a pH in the range of 9-10. Toluene (100 ml) was added and the mixture was stirred for 15 minutes at ambient temperature. The upper organic layer was separated and washed with 10% sodium chloride solution. The organic layer was dried over magnesium sulfate and the solvent was evaporated under reduced pressure to afford a solid residue. Iodomethane (30 ml, 0.482 moles) was added to the residue and the mixture was stirred to obtain a solution and kept at ambient temperature overnight. The resulting precipitate was collected by filtration, washed with diethyl ether and dried at room temperature to afford a mixture of 81.5% of the cis and 18.5% of the trans isomers of (1R)-1-[(3,4-dimethoxyphenyl)methyl]-1,2,3,4-tetrahydro-6,7-dimethoxy-2-methyl-2-tert-butoxycarbonylethyl-isoquinolinium iodide (5.5 g; 72% yield).

reactant | (1R)-1-[(3,4-dimethoxyphenyl)methyl]-1,2,3,4-tetrahydro-6,7-dimethoxy-2-tert-butoxycarbonylethylisoquinoline oxalate | 0.0125 moles, 7.0 g | C(C(=O)O)(=O)O.COC=1C=C(C=CC1OC)C[C@]1(NCCC2=CC(=C(C=C12)OC)OC)CCC(=O)OC(C)(C)C
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | Toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
reactant | Iodomethane | 0.482 moles, 30 ml | IC | CH3I
solvent | water | 50 ml | O | H2O
product | (1R)-1-[(3,4-dimethoxyphenyl)methyl]-1,2,3,4-tetrahydro-6,7-dimethoxy-2-methyl-2-tert-butoxycarbonylethyl-isoquinolinium iodide | 5.5 g, 72% yield | [I-].COC=1C=C(C=CC1OC)C[C@]1([NH+](CCC2=CC(=C(C=C12)OC)OC)C)CCC(=O)OC(C)(C)C | InChI=1S/C28H39NO6.HI/c1-27(2,3)35-26(30)11-13-28(18-19-9-10-22(31-5)23(15-19)32-6)21-17-25(34-8)24(33-7)16-20(21)12-14-29(28)4;/h9-10,15-17H,11-14,18H2,1-8H3;1H/t28-;/m1./s1
